US06211199B1
49.3.2 Synthesis of 3-(pyrid-3-yl)-3-(2-hydroxyethyl)pyrrolidine
Combine lithium aluminum hydride (4.0 g, 105 mmol) and anhydrous tetrahydrofuran (200 mL). Slowly, add a solution of (3-(pyrid-3-yl)-5-oxo-pyrrolidin-3-yl)acetic acid ethyl ester (13.0 g, 52.4 mmol) in anhydrous tetrahydrofuran (100 mL). After the addition is complete, heat to reflux. After 4 hours, cool in an ice-bath. Add water (4 mL) dropwise at such a rate that the temperature of the reaction mixture does not rise above 20° C. Cool to 10° C., add 2 M aqueous sodium hydroxide solution (4.0 mL). Add water (16 mL) and stir. After 16 hours, filter the reaction mixture and concentrate the filtrate in vacuo to give an aqueous layer. Extract with dichloromethane and lyophilize the aqueous layer to give a residue. Combine the residue and dichloromethane and methanol. Filter and evaporate the filtrate in vacuo to give the title compound.

reactant | lithium aluminum hydride | 105 mmol, 4.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (3-(pyrid-3-yl)-5-oxo-pyrrolidin-3-yl)acetic acid ethyl ester | 52.4 mmol, 13.0 g | C(C)OC(CC1(CNC(C1)=O)C=1C=NC=CC1)=O | C13H16N2O3
reactant | water | 4 mL | O | H2O
reactant | sodium hydroxide | 2 M, 4.0 mL | [OH-].[Na+]
reactant | water | 16 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(pyrid-3-yl)-3-(2-hydroxyethyl)pyrrolidine | N1=CC(=CC=C1)C1(CNCC1)CCO | C11H16N2O
